US05208234
1. 1-(Diethoxymethyl)-1H-imidazole
A mixture of imidazole (15 g, 0.220 mol, 1 eq), triethyl orthoformate (130 g, 146.6 mL, 0.880 mol, 4, eq) and p-toluenesulfonic acid (1.17 g, 0.00616 mol, 0.028 eq) was heated at 145°-175° C. until no more ethanol was distillable from the reaction mixture. The excess orthoformate was removed in vacuo. Solid sodium bicarbonate (1.17 g, 0.011 mol) was added and the residue was vacuum distilled to give the title compound (23.6 g, 68%). b.p. 89°-91° C./0.3 mm Hg.

reactant | imidazole | 0.220 mol, 15 g, 1 eq | N1C=NC=C1 | C3H4N2
reactant | triethyl orthoformate | 0.880 mol, 146.6 mL, 130 g | C(OCC)(OCC)OCC | C7H16O3
reactant | sodium bicarbonate | 0.011 mol, 1.17 g | C([O-])(O)=O.[Na+]
catalyst | p-toluenesulfonic acid | 0.00616 mol, 1.17 g, 0.028 eq | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | C(C)O | C2H6O
product | 1-(Diethoxymethyl)-1H-imidazole | 23.6 g, 68% | C(C)OC(N1C=NC=C1)OCC | C8H14N2O2
